US07572801B2
In analogy to the procedure described in example 78.1, 2-(2-chloro-phenyl)-ethanol was reacted with ethyl iodoacetate in the presence of silver trifluoromethanesulfonate and 2,6-di-tert-butylpyridin to give [2-(2-chloro-phenyl)-ethoxy]-acetic acid ethyl ester as yellow liquid. 1H NMR (CDCl3): 1.28 (t, J=7.3 Hz, 3H), 3.09 (t, J=7.1 Hz, 2H), 3.78 (t, J=7.1 Hz, 2H), 4.09 (s, 2H), 4.21 (q, J=7.3 Hz, 2H), 7.13-7.23 (m, 2H), 7.29-7.37 (m, 2H).

reactant | 2-(2-chloro-phenyl)-ethanol | ClC1=C(C=CC=C1)CCO | C8H9ClO
reactant | ethyl iodoacetate | ICC(=O)OCC | C4H7IO2
reactant | 2,6-di-tert-butylpyridin | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
catalyst | silver trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | [2-(2-chloro-phenyl)-ethoxy]-acetic acid ethyl ester | C(C)OC(COCCC1=C(C=CC=C1)Cl)=O | C12H15ClO3
